US05496928
To a solution of H-DNle-OBzl.TsOH (1.27 g) in dichloromethane (20 ml) were added NMM (0.53 ml), Boc-DTrp-OH (1.22 g), HOBT.H2O (734 mg) and EDCI.HCl (926 mg) successively under ice cooling. The mixture was stirred at the same temperature for 1 h and at room s temperature for 2 h. The mixture was diluted with ethyl acetate, washed with sat. aq. NaHCO3, 10% aq. citric acid, and brine successively, dried over MgSO4 and evaporated in vacuo. The residue was recrystallized from ethyl acetate and hexane to give Boc-DTrp-DNle-OBzl (1.56 g).

reactant | H-DNle-OBzl | N[C@H](CCCC)C(=O)OCC1=CC=CC=C1 | C13H19NO2
reactant | TsOH | 1.27 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | NMM | 0.53 ml | CN1CCOCC1 | C5H11NO
reactant | Boc-DTrp-OH | 1.22 g | N([C@H](CC1=CNC2=CC=CC=C12)C(=O)O)C(=O)OC(C)(C)C | C16H20N2O4
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 926 mg | CCN=C=NCCCN(C)C.Cl
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | H2O | 734 mg | O | H2O
product | Boc-DTrp-DNle-OBzl | 1.56 g | N([C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@H](CCCC)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C29H37N3O5
